US08372840B2
iii) N-(3-Amino-phenyl)-N-benzyl-benzene sulfonamide
A solution of [3-(benzenesulfonyl-benzyl-amino)-phenyl]-carbamic acid tert-butyl ester (1.09 g, 2.49 mmol) and trifluoroacetic acid (2.5 ml) in dichloromethane (22.5 ml) were stirred at room temperature for 90 minutes. The reaction mixture was diluted with water (100 ml) and extracted with dichloromethane (3×75 ml). The combined organics were dried (magnesium sulphate) and concentrated in vacuo to afford the title compound as a brown oil (0.83 g, 99%). HPLC retention time 5.9 min.

reactant | [3-(benzenesulfonyl-benzyl-amino)-phenyl]-carbamic acid tert-butyl ester | 2.49 mmol, 1.09 g | C(C)(C)(C)OC(NC1=CC(=CC=C1)N(CC1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1)=O | C24H26N2O4S
reactant | trifluoroacetic acid | 2.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 22.5 ml | ClCCl | CH2Cl2
solvent | water | 100 ml | O | H2O
product | N-(3-Amino-phenyl)-N-benzyl-benzene sulfonamide | 0.83 g, 99% | NC=1C=C(C=CC1)N(S(=O)(=O)C1=CC=CC=C1)CC1=CC=CC=C1 | C19H18N2O2S
